US05436246
Combine 2,6-difluorobenzenaldehyde (7.48 g, 52.3 mmol) and 1-(2-phenylethyl)-piperazine (10.94 g, 57.5 mmol)[evolution of heat]. Add dry dimethylformamide (55 mL) and potassium carbonate (7.95 g, 57.5 mmol). With stirring, heat the reaction at 75°-85° C. for 7 hours under nitrogen. Add ice water (200 mL) and extract the reaction with ether (250 mL). Wash the organic extract with brine (2×50 mL), dry over anhydrous magnesium sulfate, filter and concentrate under vacuum to yield a brown oil which solidifies on standing. Purify by flash chromatography (ethyl acetate:hexane, 50:50, TLC Rf =0.3, then 100:0) to provide 4-(2-phenylethyl)-1-(3-carboxy-2-fluorophenyl)-piperazine (10.24 g) as a yellow solid, mp 85.5°-87.5° C.; 1H NMR (CDCl3) δ 10.28 (1H, s), 7.45 (1H, dt, J=6.4, 8.2 Hz), 7.33-7.21 (5H), 6.86 (1H, d, J=8.1 Hz), 6.75 (1H, dd, J=8.2, 10.4 Hz), 3.16 (4H, m), 2.85 (2H, m), 2.76-2.66 (6H); 13C NMR (CDCl3) δ 187.48, 187.41, 165.96, 162.51, 155.62, 155.57, 140.10, 135.66, 135.50, 128.74, 128.67, 128.49, 128.41, 126.11, 116.98, 116.88, 114.28, 114.24, 109.45, 109.16, 77.20, 60.28, 53.53, 53.43, 53.06, 52.97, 33.57; 19F NMR (CDCl3) δ -115.980 (dd, J=32, 51 Hz); IR (CHCl3 solution) 2832, 1688, 1609, 1472, 1450, 1236, 1005, 754 cm-l ; CI/MS (CH4) 313(100%), 221(52%).

reactant | 2,6-difluorobenzenaldehyde | 52.3 mmol, 7.48 g | FC1=C(C(=CC=C1)F)C=O | C7H4F2O
reactant | 1-(2-phenylethyl)-piperazine | 57.5 mmol, 10.94 g | C1(=CC=CC=C1)CCN1CCNCC1 | C12H18N2
reactant | potassium carbonate | 57.5 mmol, 7.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 55 mL | CN(C=O)C | C3H7NO
product | 4-(2-phenylethyl)-1-(3-carboxy-2-fluorophenyl)-piperazine | 10.24 g | C1(=CC=CC=C1)CCN1CCN(CC1)C1=C(C(=CC=C1)C(=O)O)F | C19H21FN2O2
